US06326369B1
8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl acetate
To a solution of 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol (1.20 g) in pyridine (6.0 ml) was dropwise added anhydrous acetic acid (0.555 ml) at room temperature. After being stirred for 12 hr, the reaction mixture was concentrated in vacuo, made acidic with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to yield the entitled compound (1.25 g) as crystals.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol | 1.20 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCO | C21H34O5
reactant | acetic acid | 0.555 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 6.0 ml | N1=CC=CC=C1 | C5H5N
product | 8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl acetate | 1.25 g | C(C)(=O)OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C23H36O6
